US09290465B2
To a solution of [3-(4-hydroxy-phenyl)-isoxazol-4-yl]-carbamic acid tert-butyl ester (100 mg, 0.362 mmol), 3-pyridylmethanol (40 μL, 0.42 mmol)) and triphenylphosphine (200 mg, 0.76 mmol) in THF (2.1 mL) at 0° C. was added diethylazodicarboxylate (155 μL, 0.85 mmol) over 1.5 h. The reaction mixture was warmed rt for 24 h. Volatiles were removed under reduced pressure and the crude product was dry-loaded onto silica gel. Chromatography (1-2.5% CH3OH in CH2Cl2) provided {3-[4-(pyridin-3-ylmethoxy)-phenyl]isoxazol-4-yl}-carbamic acid tert-butyl ester.

reactant | [3-(4-hydroxy-phenyl)-isoxazol-4-yl]-carbamic acid tert-butyl ester | 0.362 mmol, 100 mg | C(C)(C)(C)OC(NC=1C(=NOC1)C1=CC=C(C=C1)O)=O | C14H16N2O4
reactant | 3-pyridylmethanol | 0.42 mmol, 40 μL | N1=CC(=CC=C1)CO | C6H7NO
reactant | triphenylphosphine | 0.76 mmol, 200 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 0.85 mmol, 155 μL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 2.1 mL | C1CCOC1 | C4H8O
product | {3-[4-(pyridin-3-ylmethoxy)-phenyl]isoxazol-4-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C(=NOC1)C1=CC=C(C=C1)OCC=1C=NC=CC1)=O | C20H21N3O4
